US04053505
1,3,5-Tricarbomethoxymethylhexahydro-1,3,5-triazine (1.0 part) and diphenyl phosphite (2.93 parts which contained .59 parts of phenol) are mixed and then heated to 80° C. for 5 minutes. To the reaction mixture is then added an excess of dilute hydrochloric acid (2.0 N) and then heated to from 70° C. to 100° C. for 6 hours. The resultant solution is then allowed to stand at ambient temperature to precipitate the N-phosphonomethyl glycine. By this procedure one obtains yields of the N-phosphonomethyl glycine of greater than 80%.

reactant | 1,3,5-Tricarbomethoxymethylhexahydro-1,3,5-triazine | C(=O)(OC)CN1CN(CN(C1)CC(=O)OC)CC(=O)OC | C12H21N3O6
reactant | diphenyl phosphite | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)[O-]
reactant | hydrochloric acid | 2.0 N | Cl | ClH
product | N-phosphonomethyl glycine | P(=O)(O)(O)CNCC(=O)O | C3H8NO5P
